US04160837
28.2 g (0.09 mol) of trans-3-hydroxy-4-phenoxy-1-carbobenzyloxy-pyrrolidine are dissolved in 280 ml of ethanol and hydrogenated in the presence of 3 g of a 5% strength palladium-on-charcoal catalyst under normal pressure and at room temperature. After the absorption of hydrogen has ceased, the catalyst is filtered off by means of diatomaceous earth and the filtrate is evaporated under a water pump vacuum. The residue is crystallised from methanol/ether and gives trans-3-hydroxy-4-phenoxy-pyrrolidine with a melting point of 120°-122°. The crystalline neutral fumarate with a melting point of 145°-146° is obtained by reacting the base with a solution of fumaric acid in methanol/ether.

reactant | trans-3-hydroxy-4-phenoxy-1-carbobenzyloxy-pyrrolidine | 0.09 mol, 28.2 g | O[C@@H]1CN(C[C@H]1OC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C18H19NO4
solvent | ethanol | 280 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | trans-3-hydroxy-4-phenoxy-pyrrolidine | O[C@@H]1CNC[C@H]1OC1=CC=CC=C1 | C10H13NO2
